US07956191B2
Lithium 1,1,1,3,3,3-hexamethyldisilazan-2-ide (11.9 ml, 1.00 M, 11.82 mmol) was added to a solution of 2-fluoro-4-iodoaniline (1.40 g, 5.91 mmol) at −78° C. The pale green colored solution was stirred for 1½ h at −78° C. Then, lithium 1,1,1,3,3,3-hexamethyldisilazan-2-ide (5.45 ml, 1.00 M, 5.45 mmol) was added followed by 2-bromo-5-fluoroisonicotinic acid (1.00 g, 4.55 mmol) in THF (5 ml). The dark colored homogeneous mixture was warmed to room temperature and stirred overnight. The crude was diluted with EtOAc (300 ml). Then, it washed with dilute HCl solution (20 ml), H2O (20 ml), dried and purified on Flashmaster II using a 100 g cartridge to obtain 1.18 g (59%) of 2-Bromo-5-(2-fluoro-4-iodo-phenylamino)-isonicotinic acid.

reactant | Lithium 1,1,1,3,3,3-hexamethyldisilazan-2-ide | 11.82 mmol, 1.00 M, 11.9 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 2-fluoro-4-iodoaniline | 5.91 mmol, 1.40 g | FC1=C(N)C=CC(=C1)I | C6H5FIN
reactant | lithium 1,1,1,3,3,3-hexamethyldisilazan-2-ide | 5.45 mmol, 1.00 M, 5.45 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 2-bromo-5-fluoroisonicotinic acid | 4.55 mmol, 1.00 g | BrC=1C=C(C(=O)O)C(=CN1)F | C6H3BrFNO2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 300 ml | CCOC(=O)C | C4H8O2
product | 2-Bromo-5-(2-fluoro-4-iodo-phenylamino)-isonicotinic acid | 1.18 g, 59% | BrC=1C=C(C(=O)O)C(=CN1)NC1=C(C=C(C=C1)I)F | C12H7BrFIN2O2
